US05216015
Step 10: Preparation of 3α-tert-butyldimethylsilyloxy-12α-hydroxy-5β-androstan-17-one
A mixture of 3α, 12α-dihydroxy-5β-androstan-17-one (4.29 g), tert-butyldimethylsilyl chloride (3.26 g), 4-dimethylaminopyridine (0.17 g) and imidazole (1.9 g) in dimethylformamide (38 ml) is stirred at room temperature for about 1 hour, diluted with ether and washed with water. The organic solution is dried over magnesium sulfate, filtered and concentrated in vacuo to give the desired product which is used, without further treatment, for the next step.

reactant | 3α, 12α-dihydroxy-5β-androstan-17-one | 4.29 g | O[C@H]1C[C@H]2CC[C@H]3[C@@H]4CCC([C@@]4(C)[C@H](C[C@@H]3[C@]2(CC1)C)O)=O | C19H30O3
reactant | tert-butyldimethylsilyl chloride | 3.26 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 1.9 g | N1C=NC=C1 | C3H4N2
catalyst | 4-dimethylaminopyridine | 0.17 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dimethylformamide | 38 ml | CN(C=O)C | C3H7NO
solvent | ether | CCOCC | C4H10O
product | 3α-tert-butyldimethylsilyloxy-12α-hydroxy-5β-androstan-17-one | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@H]2CC[C@H]3[C@@H]4CCC([C@@]4(C)[C@H](C[C@@H]3[C@]2(CC1)C)O)=O | C25H44O3Si
